US05142080
185 g of diethylaminotrimethylsilane was prepared in the same manner as in Example 1, except that 94.4 g (1.3 mol) of diethylamine was placed in the same flask as used in Example 1 and 340.4 g (1.4 mol) of N,O-bis(trimethylsilyl)trifluoroacetamide was added dropwise from the dropping funnel. The yield was 98%, and the chlorine was not detected.

reactant | diethylamine | 1.3 mol, 94.4 g | C(C)NCC | C4H11N
reactant | N,O-bis(trimethylsilyl)trifluoroacetamide | 1.4 mol, 340.4 g | C[Si](C)(C)/N=C(\C(F)(F)F)/O[Si](C)(C)C | C8H18F3NOSi2
reactant | chlorine | ClCl | Cl2
product | diethylaminotrimethylsilane | 185 g, yield was 98% | C(C)N(CC)[Si](C)(C)C | C7H19NSi
